US07799440B2
First, 0.91 grams (3.75 mM) of magnesium is added into a tetrahydrofuran (THF) solution and iodide (I2) in a nitrogen-rich environment. Next, 35 ml of THF mixed with 5.9 grams (37.5 mM) of 4-bromobiphenyl is slowly added by means of dropper funnels to the solution provided previously, and the solution is heated to reflux for one hour. Next, 60 ml of THF mixed with 8.4 grams (25 mM) of 2,7-dibromo-fluorenone is added into the previous solution, and after a grignard agent is added, the solution is heated to reflux. Next, water is added to the reacting mixture, a chloroform extraction is performed, and the organic layer is washed two times by water and dried by magnesium sulfate. Next, a rotary concentrator is utilized to remove the solvent, and ethyl acetate is utilized to initiate a recrystallization reaction and produce 2,7-dibromo-9-phenyl-9H-fluorene-9-ol.

reactant | magnesium | 3.75 mM, 0.91 grams | [Mg] | Mg
reactant | iodide | [I-]
reactant | 4-bromobiphenyl | 37.5 mM, 5.9 grams | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | 2,7-dibromo-fluorenone | 25 mM, 8.4 grams | BrC=1C(C2=CC3=CC(=CC=C3C2=CC1)Br)=O | C13H6Br2O
reactant | water | O | H2O
solvent | THF | 60 ml | O1CCCC1 | C4H8O
solvent | THF | 35 ml | O1CCCC1 | C4H8O
product | 2,7-dibromo-9-phenyl-9H-fluorene-9-ol | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(O)C1=CC=CC=C1 | C19H12Br2O
